US06720324B2
6-(3,4-DIFLUOROPHENYL)-1,6-DIHYDRO-2-METHOXY-5-METHOXYCARBONYL-4-METHYL-1-[(4-NITROPHENYLOXY)CARBONYL]PYRIMIDINE:
4-Nitrophenyl chloroformate (1.82 g, 9.04 mmol) was added to a solution of 6-(3,4-difluorophenyl)-1,6-dihydro-2-methoxy-5-methoxycarbonyl-4-methylpyrimidine (2.82 g, 9.46 mmol) and 4-dimethylaminopyridine (1.16 g, 9.52 mmol) in CH2Cl2 (50 mL), at 0-5° C. and the mixture was then allowed to warm to room temperature. After 12 h, the solvent was evaporated and the residue was purified by flash chromatography (EtOAc/hexane, 1/9 to 3/20), giving the desired product as white crystals (3.72, 85%): mp 172-174° C.

reactant | 4-Nitrophenyl chloroformate | 9.04 mmol, 1.82 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 6-(3,4-difluorophenyl)-1,6-dihydro-2-methoxy-5-methoxycarbonyl-4-methylpyrimidine | 9.46 mmol, 2.82 g | FC=1C=C(C=CC1F)C1C(=C(N=C(N1)OC)C)C(=O)OC | C14H14F2N2O3
catalyst | 4-dimethylaminopyridine | 9.52 mmol, 1.16 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 6-(3,4-DIFLUOROPHENYL)-1,6-DIHYDRO-2-METHOXY-5-METHOXYCARBONYL-4-METHYL-1-[(4-NITROPHENYLOXY)CARBONYL]PYRIMIDINE | 85% | FC=1C=C(C=CC1F)C1C(=C(N=C(N1C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])OC)C)C(=O)OC | C21H17F2N3O7
